US04431576
1.85 g of (1R,cis) 2,2-dimethyl-3-[(Z)-cyanoethenyl]-cyclopropane-1-carboxylic acid chloride were added at 0° to solution of 2 ml of methanol, 10 ml of benzene and 1 ml of pyridine and the reaction solution was stirred at 20° C. for 16 hours and was poured into water. The mixture was extracted with benzene and the organic phase was dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with benzene to obtain 0.511 g of methyl (1R,cis) 2,2-dimethyl-3[(Z)-2-cyanoethenyl]cyclopropane-1-carboxylate.

reactant | (1R,cis) 2,2-dimethyl-3-[(Z)-cyanoethenyl]-cyclopropane-1-carboxylic acid chloride | 1.85 g | CC1([C@@H]([C@@H]1\C=C/C#N)C(=O)Cl)C | C9H10ClNO
reactant | methanol | 2 ml | CO | CH4O
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methyl (1R,cis) 2,2-dimethyl-3[(Z)-2-cyanoethenyl]cyclopropane-1-carboxylate | 0.511 g | CC1([C@@H]([C@@H]1\C=C/C#N)C(=O)OC)C | C10H13NO2
